US09376422B2
To a stirred solution of 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-3-[ethyl(oxan-4-yl)amino]-2-methylbenzoic acid (54 mg, 0.13 mmol) in DMF (2 ml) and the reaction was cooled using an ice bath followed by the addition of DIPEA (45 μl, 0.26 mmol) and HATU (59 mg, 0.15 mmol)). The reaction was stirred at 0° C. for 5 min after which time 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 24 mg, 0.14 mmol) was added and the reaction was warmed room temperature for 16 h. The reaction mixture was then poured onto 50 ml of water and the aqueous phase was extracted with EtOAc (3×50 ml), washed with brine (50 ml) dried (Na2SO4), filtered and evaporated to give an oil. The product was then purified using a 5 g silica Isolute column eluting with 0% to 2.5% MeOH in DCM and evaporated to afford tert-butyl 3-(3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-5-[ethyl(oxan-4-yl)amino]-4-methylphenyl)azetidine-1-carboxylate as a colourless oil (29 mg). LC-MS 90%, m/z=553.3. This material was dissolved in 4M HCl in dioxane solution (3 ml) and stirred at room temperature for 90 min after which the solvent was evaporated to dryness and the compound purified by preparative HPLC to afford the title compound as a white solid (11 mg, 8% over 2 steps). LC-MS 97%, 2.17 min (7 minute LC-MS method), m/z=453.2, 1H NMR (500 MHz, MeOD) δ 7.26 (s, 1H), 7.18 (s, 1H), 6.14 (s, 1H), 4.48 (s, 2H), 4.39 (s, 2H), 4.22 (s, 3H), 3.93 (d, J=10.5 Hz, 2H), 3.40-3.33 (m, 2H), 3.29-2.90 (m, 3H), 2.40 (s, 3H), 2.31 (s, 3H), 2.26 (s, 3H), 1.68 (d, J=26.3 Hz, 4H), 0.87 (s, 3H).

reactant | 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-3-[ethyl(oxan-4-yl)amino]-2-methylbenzoic acid | 0.13 mmol, 54 mg | C(C)(C)(C)OC(=O)N1CC(C1)C=1C=C(C(=C(C(=O)O)C1)C)N(C1CCOCC1)CC | C23H34N2O5
reactant | DIPEA | 0.26 mmol, 45 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 59 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.14 mmol, 24 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | tert-butyl 3-(3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-5-[ethyl(oxan-4-yl)amino]-4-methylphenyl)azetidine-1-carboxylate | 29 mg | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=C(C=C(C1C)N(C1CCOCC1)CC)C1CN(C1)C(=O)OC(C)(C)C | C31H44N4O5
